### PR TITLE
Erdős Problem 723

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 723](https://www.erdosproblems.com/723).

I'm not sure if this is actually due to Erdős. This seems to be the Prime Power Conjecture. I looked through the linked paper and I couldn't find it. I think it might be better to move the contents to `FormalConjectures/Other/PrimePower.lean` and import it into `FormalConjectures/ErdosProblems/723.lean`, similar to the Brocard Problem.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/723.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+-/
+@[category research open, AMS 5]
+theorem erdos_732 : (∀ pp : ProjectivePlane P L, IsPrimePow pp.order) ↔ answer(sorry) := by
+  sorry
+
+/--
+These always exist if $n$ is a prime power.
+-/
+@[category research solved, AMS 5]
+theorem erdos_732.prime_pow_is_projplane_order :
```
Comment (rao107) [inline FormalConjectures/ErdosProblems/723.lean:44]: I wasn't too sure about the name here. If anyone has a better name, I'd gladly change it.

File: FormalConjectures/ErdosProblems/723.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+    ∀ n, IsPrimePow n → ∃ pp : ProjectivePlane P L, pp.order = n := by
+  sorry
+
+/--
+This conjecture has been proved for $n \leq 11$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_732.leq_11 : ∀ pp : ProjectivePlane P L, pp.order ≤ 11 → IsPrimePow pp.order := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/723.lean:54]:
```suggestion

/--
It is open whether there exists a projective plane of order 12.
-/
@[category research open, AMS 5]
theorem erdos_732.eq_12 : (∃ pp : ProjectivePlane P L, pp.order = 12) ↔ answer(sorry) :=  by
  sorry

```

Let's add the first open case?!

File: FormalConjectures/ErdosProblems/723.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/723.lean:44]: looks good to me, we often also use ".variants" in the name.

**Review by mo271 — APPROVED** [review]
LGTM, thanks!

Perhaps you could also add the Bruck and Ryser result mentioned (or leave a TODO for that)

**Comment by rao107** [comment]
> Perhaps you could also add the Bruck and Ryser result mentioned (or leave a TODO for that)

Added Bruck and Ryser theorem and the first open case :slightly_smiling_face:

**Comment by mo271** [comment]
Thanks again!
